US08633173B2
N-[3-(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-pyridin-2-yl]-N-methyl-methanesulfonamide was prepared from N-(3-amino-pyridin-2-yl)-N-methyl-methanesulfonamide (238.0 mg, 1.183 mmol) and 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (250.0 mg, 1.075 mmol) in a manner analogous to Example 2d. Product isolated as a pale yellow foam (0.185 g, 48%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.18-8.15 (m, 1H), 8.11 (d, J=6.8 Hz, 1H), 7.81 (d, J=8.0 Hz, 1H), 7.50 (s, 1H), 7.32-7.25 (m, 1H), 7.17 (d, J=7.5 Hz, 1H), 6.93 (t, J=7.3 Hz, 1H), 3.31 (s, 3H), 3.07 (s, 3H). MS=353, 355 (MH)+.

reactant | N-(3-amino-pyridin-2-yl)-N-methyl-methanesulfonamide | 1.183 mmol, 238.0 mg | NC=1C(=NC=CC1)N(S(=O)(=O)C)C | C7H11N3O2S
reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 1.075 mmol, 250.0 mg | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
product | N-[3-(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-pyridin-2-yl]-N-methyl-methanesulfonamide | ClC1=NN2C(C(=CC=C2)NC=2C(=NC=CC2)N(S(=O)(=O)C)C)=N1 | C13H13ClN6O2S
